### PR TITLE
feat: add Qq wrappers for ToExpr

### PR DESCRIPTION
**Pull request by eric-wieser**
---

- [ ] depends on: #6699 (to appease the linter)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Util/Qq.lean [hunk 1]
```diff
@@ -27,3 +28,20 @@ def inferTypeQ' (e : Expr) : MetaM ((u : Level) × (α : Q(Type $u)) × Q($α))
...
+/-- `Lean.toExpr` with Qq support. -/
+def Lean.toExprQ {α : Type u} [Lean.ToLevel.{u}] [Lean.ToExpr α] (x : α) :
+  Q($(toTypeExprQ α)) := Lean.toExpr x
+
+/-- `Lean.toExpr` with Qq support. -/
+def Lean.ToExpr.mkQ.{u} {α : Type u} [Lean.ToLevel.{u}]
+    (toTypeExprQ : Q(Type $(Lean.toLevel.{u}))) (toExprQ : α → Q($toTypeExprQ)) :
+    ToExpr α where
+  toTypeExpr := toTypeExprQ
+  toExpr x := toExprQ x
```
Comment (eric-wieser) [inline Mathlib/Util/Qq.lean:47]: This definition seems to get confused with universe variables if I actually try to use it.

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -2570,14 +2571,14 @@ protected theorem zero_mul [NeZero n] (k : Fin n) : (0 : Fin n) * k = 0 := by
 end Mul
 
 open Qq in
-instance toExpr (n : ℕ) : Lean.ToExpr (Fin n) where
-  toTypeExpr := q(Fin $n)
-  toExpr := match n with
+instance toExpr (n : ℕ) : Lean.ToExpr (Fin n) := Lean.ToExpr.mkQ.{0}
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:2574]: Without the `{0}` this gives
```
type mismatch
  Fin «$n»
has type
  Type : Type 1
but is expected to have type
  Type 127 : Type 128
  ```

Comment (gebner) [reply Mathlib/Data/Fin/Basic.lean:2574]: Yes, this is the `ToLevel` issue I've alluded to on Zulip.  Depending on the order the instances are synthesized, we can end up searching for an instance of `ToLevel.{?u}`.  And since the succ instances has higher priority than the zero instance, we get `ToLevel.{127}` as a result.  If we'd swap the instance priorities, we'd get `ToLevel.{0}`.  Of course, neither choice is desirable.

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -2570,14 +2571,16 @@ protected theorem zero_mul [NeZero n] (k : Fin n) : (0 : Fin n) * k = 0 := by
...
 open Qq in
-instance toExpr (n : ℕ) : Lean.ToExpr (Fin n) where
-  toTypeExpr := q(Fin $n)
-  toExpr := match n with
-    | 0 => finZeroElim
-    | k + 1 => fun i => show Q(Fin $n) from
-      have i : Q(Nat) := Lean.mkRawNatLit i -- raw literal to avoid ofNat-double-wrapping
-      have : Q(NeZero $n) := haveI : $n =Q $k + 1 := ⟨⟩; by exact q(NeZero.succ)
-      q(OfNat.ofNat $i)
+protected def toExprQ (i : Fin n) : Q(Fin $n) :=
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:2574]: What's the motivation for giving this a standalone def? Can't we just use the typeclass-parametrized `toExprQ`?

Comment (gebner) [reply Mathlib/Data/Fin/Basic.lean:2574]: It would be possible to inline the definition here into the instance (and that's in fact how you should call it).  I usually try to make separate definitions for the operations to reduce the size of the instance after unfolding.  Whenever Lean reduces, for example, `ToExprQ.level`, it needs to copy the whole instance body, including both the `toTypeExprQ` definition and the even larger (when inlined) `toExprQ` definition.

(For other type classes like `Ring` there's an additional benefit:  When we check that two instances of, for example, `Add` are defeq, it is obviously much faster to check that `Fin.add =?= Fin.add` than to compare the definitions, which have modulo operators, additional type class arguments, etc.)

Writing proofs inside the instance is completely fine though, because Lean will automatically create auxiliary `_proof_7` lemmas for you.

**Comment by eric-wieser** [comment]
@gebner, I couldn't work out how to use this new framework for the `Matrix` instance:
```
protected instance instToExprQ
    [ToExprQ α] [ToExprQ m'] [ToExprQ n'] [ToExprQ (m' → n' → α)] :
  ToExprQ (Matrix m' n' α) :=
    let em' : Q(Type $(ToExprQ.level m')) := toTypeExprQ m'
    let en' : Q(Type $(ToExprQ.level n')) := toTypeExprQ n'
    let eα : Q(Type $(ToExprQ.level α)) := toTypeExprQ α
    { level := _
      toTypeExprQ := q(Matrix $eα $em' $en')
      toExprQ := fun M =>
        have eM : Q($em' → $en' → $eα) := toExprQ (show m' → n' → α from M)
        q(Matrix.of $eM) }
```
The last line seems to have swapped the order of my type variables!

**Comment by grunweg** [comment]
Coming here from triaging old PRs: is this PR still relevant? (I vaguely remember some material around ToExpr being upstreamed to core - that might have been something else, though.)

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
